US08871774B2
Formation of 3-bromo-1-trityl-1H-pyrazolo[3,4-b]pyridine (45)
A solution of 3-bromo-5-fluoro-1-trityl-pyrazolo[3,4-b]pyridine, 44, (16.86 g, 36.79 mmol), KOAc (10.83 g, 110.4 mmol) and 4,4,5,5-tetramethyl-2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,3,2-dioxaborolane (14.01 g, 55.18 mmol) in DMF (250 mL) was degassed under a nitrogen stream for 40 min. To the mixture was added Pd(dppf)2Cl2 (3.00 g, 3.68 mmol). The reaction mixture was heated at 100° C. for 90 minutes. The reaction mixture was filtered through a pad of florisil and celite. The filtrate was diluted with ether and brine. The organic phase was dried over MgSO4, filtered and concentrated in vacuo. The product was dried on high vacuum pump 3 days. To the product was added 200 mL Et2O and the mixture was stirred and filtered. The filtrate was concentrated in vacuo. The crude residue was diluted with 150 mL hexanes and the suspension was stirred for 3 hours, filtered and concentrated in vacuo to afford 12.6 g of desired product.

reactant | 3-bromo-5-fluoro-1-trityl-pyrazolo[3,4-b]pyridine | BrC1=NN(C2=NC=C(C=C21)F)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C25H17BrFN3
reactant | KOAc | 36.79 mmol, 16.86 g | CC(=O)[O-].[K+]
reactant | 4,4,5,5-tetramethyl-2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,3,2-dioxaborolane | 55.18 mmol, 14.01 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
solvent | DMF | 250 mL | CN(C)C=O | C3H7NO
catalyst | Pd(dppf)2Cl2 | 3.68 mmol, 3.00 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 3-bromo-1-trityl-1H-pyrazolo[3,4-b]pyridine | 12.6 g | BrC1=NN(C2=NC=CC=C21)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C25H18BrN3
